US07781454B2
1-(2,5-dichloro-3-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}phenyl)methanamine
2,5-dichloro-3-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile (283 mg, 0.601 mmol) was dissolved in dry THF (30 mL), cooled to 0° C., and LAH solution (1.20 mL, 1.20 mmol) in THF (1.2 mL) was added. The reaction mixture was allowed to warm to room temperature, and after 2 hours the mixture was cooled to 0° C. and quenched with EtOAc (50 mL). To this mixture was added saturated aqueous Na2SO4 (3 mL), followed 5 minutes later by the addition of water (5 mL). This mixture was stirred for 5 minutes after which excess solid Na2SO4 was added. The mixture was then filtered and solvent removed under reduced pressure. The resulting residue was purified by reverse phase chromatography eluting with 5-95% MeCN/H2O+0.1% TFA to yield the title compound. 1H NMR (DMSO-d6) δ 8.53 (d, J=4.5 Hz, 1H), 8.12 (d, J=8.0 Hz, 1H), 7.98 (s, 2H), 7.89 (d, J=9.0 Hz, 1H), 7.79 (d, J=9.0 Hz, 1H), 7.48 (s, 1H), 7.20 (dd, J=8.0 Hz, J=4.5 Hz, 1H), 6.91 (s, 1H), 6.38 (s, 2H), 4.21 (s, 2H). HRMS (M+1)=476.0363.

reactant | 2,5-dichloro-3-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | 0.601 mmol, 283 mg | ClC1=C(C#N)C=C(C=C1OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl)Cl | C20H10Cl3N7O
reactant | LAH | 1.20 mmol, 1.20 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 1-(2,5-dichloro-3-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-1,2,3-benzotriazol-4-yl]oxy}phenyl)methanamine | ClC1=C(C=C(C=C1OC1=C(C=CC=2N(N=NC21)CC2=NNC1=NC=CC=C12)Cl)Cl)CN | C20H14Cl3N7O
